Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Tachycardia, pneumonia, weakness  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ yo male ___ py smoker with history of 
dementia and recurrent aspiration c/b PNA, who presents from his 
PCP's office today with concern for LLL pneumonia. The patient's 
daughter, an ___ at ___, first noticed her father's cough 
increased several days ago accompanied by weakness in the lower 
extremities, back pain, and poor PO intake.  She felt his mental 
status was at baseline, though has been gradually declining over 
the past few months.  She brought him to the PCP, who repeated a 
chest xray, concerning for LLL and lingular pneumonia. His WBC 
was elevated to 15.7 with 77% PMN and pt was tachycardic to 130s 
so he was referred to the ED.

Of note, he had been admitted at ___ from ___ for chest 
pain, where cardiac work-up was negative, EKG did not reveal any 
acute ischemic changes. Notably, a CXR at that time showed 
atelectasis per OMR note, so he was discharged without 
antibiotics. He was treated with amlodipine for hypertension and 
give lopressor and IVF for tachycardia, but HR never dropped 
below 100s at ___. He was afebrile throughout the 
hospitalization.  He was discharged back to ___.  

Initial VS in the ED: 99.0 135 150/93 22 93%. He triggered on 
arrival for tachycardia. His labs were notable for WBC 17.1 with 
80% PMN, nl creatinine at 1.0, K 6.6 though specimen hemolyzed. 
Pt had labs done at PCP this afternoon with potassium of 3.9. Pt 
had repeat CXR here which confirmed LLL pneumonia, also with 
small left sided pleural effusion. He was given 2L NS, levaquin 
and flagyl prior to transfer.  
 
On the floor, pt has no complaints. He denies any pain, and 
would like to go to bed. Daughter denies that pt has had any 
shortness of breath. She also states that he has not been taking 
the amlodipine prescribed to him at ___ because pt had no prior 
history of HTN and daughter would like to minimize medications. 
She has noticed that his urine has been very concentrated and pt 
has not been eating or drinking much over the past ___ hours. 
She states that he chronically aspirates but would not like him 
on a dysphagia diet, understanding the risks. 

Currently, he is drowsy, but not oriented (believes he is in the 
___ in ___, the date is ___, and his 
name is ___ and endorses lower back pain and RLE pain. 
Incontinent of urine, tolerating po medications. No SOB, no 
CP/palpitations, no F/C.
 
Past Medical History:
recurrent PNA  
H/o falls - most recent one year ago evaluated at ___ which was 
negative. Head CT negative, ___. Carotid US ___ year ago 
negative.
s/p R side inguinal repair. 
FTT  
depression  
dementia, at baseline A&O x 1  

 
Social History:
___
Family History:
Brother in ___ who is still alive. +family of hyperthyroidism.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 97.3 BP: 178/90 (150-170s) P:112 R:16 O2: 94% RA  
General: Drowsy, oriented x 1, no acute distress, breathing 
comfortably  
HEENT: Sclera anicteric, dry mucous membranes, poor dentition  
Neck: supple, JVP not elevated, no LAD  
Lungs: Crackles and decreased air movement at left base, no 
wheezes, rales, ronchi
CV: Tachycardic, RRR, nl S1 + S2
Abdomen: soft, NT/ND, BS+, no rebound tenderness or guarding
Ext: WWP, no c/c/e. 
Neuro: A&Ox1 (believes he is in the ___ in ___, the date is ___, and his name is ___, moving all 
extremities, strength ___ BLE, sensation grossly intact, no 
saddle anesthesia, urinary incontinence unchanged from baseline.

DISCHARGE PHYSICAL EXAM:
Vitals:  97.2 132/70 94 18 94% RA 
4 Bowel movements overnight
General: Thin elderly male, oriented x 1, no acute distress, 
breathing comfortably, sitting in chair reading magazine  
HEENT: Sclera anicteric, moist mucus membranes 
Neck: supple, JVP not elevated, no LAD  
Lungs: Diffuse expiratory wheezing
CV: RRR, nl S1 + S2
Abdomen: soft, NT/ND, BS+, no rebound tenderness or guarding
Ext: WWP, no c/c/e. 
Neuro: A&Ox1, moving all extremities, able to get up out of 
chair and walk around

 
Pertinent Results:
ADMISSION LABS:
___ 06:35PM   WBC-17.1*# RBC-4.53* HGB-15.2 HCT-44.5 MCV-98 
MCH-33.5* MCHC-34.1 RDW-12.7
___ 06:35PM   NEUTS-80.2* LYMPHS-9.5* MONOS-9.6 EOS-0.4 
BASOS-0.3
___ 06:35PM   PLT COUNT-261
___ 06:35PM   GLUCOSE-151* UREA N-30* CREAT-1.0 SODIUM-138 
POTASSIUM-6.6* CHLORIDE-100 TOTAL CO2-23 ANION GAP-22*
___ 06:35PM   CALCIUM-9.8 PHOSPHATE-3.1 MAGNESIUM-2.5
___ 06:35PM   CK-MB-2 cTropnT-<0.01
___ 06:35PM   CK(CPK)-111
___ 06:35PM   TSH-3.6
___ 07:04PM   LACTATE-2.2*

URINALYSIS:
___ 11:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-5.5 LEUK-NEG
___ 11:26PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0

IMAGING:
Imaging - CTA:
IMPRESSION: 
1. No evidence of pulmonary embolism.  However, there does 
appear to be intramural hematoma involving the descending 
thoracic aorta, with likely some foci of ongoing bleeding as 
described, either foci of bleeding of vasa vasorum or tiny 
penetrating ulcers.  A discrete dissection flap is not 
identified.  No definite involvement of the ascending aorta or 
arch vessels.  This was discussed by telephone with Dr. ___ 
at 15:05, ___, approximatley 5 minutes after discovery of 
the findings. 
2. Aortic valve dilation at the level of the cusps.  There also 
appears to be regions of aortic valvular calcifications, which 
may be a predisposing factor towards aortic stenosis. 
3. Small amount of dependent debris is seen within the lower 
portion of the trachea.  This may be secondary to mucous 
secretions versus aspiration. However, there is not a gross 
consolidative process seen within the lungs. 
4. Moderate to severe centrilobular emphysema, and near collapse 
of the left lower lobe with small to moderate size left-sided 
pleural effusion.  Mild right sided atelectasis

___ 09:00PM BLOOD WBC-11.6* RBC-3.70* Hgb-12.3* Hct-38.0* 
MCV-103* MCH-33.2* MCHC-32.4 RDW-12.4 Plt ___
___ 07:30AM BLOOD Glucose-125* UreaN-16 Creat-0.7 Na-145 
K-4.3 Cl-112* HCO3-27 AnGap-10
___ 07:30AM BLOOD Calcium-8.2* Phos-1.9* Mg-2.1
___ 11:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.0 Leuks-NEG

C. diff - negative. 
 
Brief Hospital Course:
___ with h/o recurrent aspiration with worsening cough, 
leukocytosis, tachycardia, and CXR c/w LLL PNA.  Pneumonia 
improved with antibiotics and patient will be discharged to 
rehab. 

# Bacterial PNA: Likely secondary to community acquired 
pneumonia.  On the evening of admission patient received 
vancomycin and cefepime, but this was narrowed to levofloxacin 
and ceftriaxone on the second day of admission.  Patient 
improved throughout admission and his tachycardia, elevated WBC 
improved as well. There was concern for aspiration.  Speech and 
swallow evaluation was attempted, but patient refused.  Would 
re-attempt following discharge. 

# Intramural hematoma of aorta/dissection: Incidental finding on 
chest CT.  Vascular surgery was consulted and recommended 
thoracentesis to see if pleural effusion was consistent with 
hemothorax.  Per HCP, patient would not wish to have 
invasive/surgical management of this.  Would prefer conservative 
treatment with antihypertensive medications.  Patient was 
started on labetalol 100 mg BID and amlodipine 10 mg daily with 
good blood pressure control.  

# Acute encephalopathy with Delirium: Pt with dementia and is 
A&Ox1 at baseline. Patient has been intermittently more altered 
during admission likely delirium in the setting of 
hospitalization.  New infection was excluded - pt had no 
evidence of UTI or c. diff.  Tethers were minimized and patient 
received frequent reorientation.  Pt did receive a one time dose 
of olanzapine 2.5 on ___ for agitation, but this did not help 
with agitation.  Patient improved with frequent reorientation, 
minimizing tethers, and having family to bedside.  

# Tachycardia: Sinus.  likely secondary to infection, no 
evidence of PE.  Improved with treatment of pneumonia. 

# HTN: Improved with treatment with amlodipine 10 mg po QD and 
labetalol 100 BID.
 
TRANSITIONAL ISSUES:
- Needs follow-up CXR in ___ weeks to document resolution of 
pneumonia
- Concern for aspiration - speech and swallow eval attempted in 
house, but patient would not cooperate with speech and swallow, 
would recommend consultation with speech and swallow
- Patient is DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Labetalol 100 mg PO BID 
4. Senna 2 TAB PO BID:PRN constipation 

 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Descending aorta hematoma
Left lower lobe pneumonia

Secondary diagnosis:
Hypertension
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___.  You were 
admitted to the hospital with pneumonia, which we treated with 
antibiotics.  You had a CT scan showing an abnormality in your 
aorta.  You were seen by the vascular surgeons, but your family 
decided that you want not want to have a surgery.  We are 
treating the abnormality in your aorta with blood pressure 
medications. 

You need to have a chest x-ray in 6 - 8 weeks to document 
resolution of your pneumonia.

You will follow-up with the physicians at your rehab facility. 

 
Followup Instructions:
___